US06022873
2-[4-(4-Chloro-phenyl)-1-(piperidine-1-carbonyl)-butyl]-malonic acid tert-butyl ester (2.0 g, 4.6 mmol) was dissolved in ethanol (100 ml) and treated with piperidine (0.43 ml, 5.5 mmol) and 37% w/w formaldehyde (1.9 ml, 23 mmol). The reaction mixture was heated at 50° C. overnight. The solvent was removed under reduced pressure, the residue was dissolved in ethyl acetate (60 ml), and the solution was washed with water (3×30 ml), dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, 20% ethyl acetate in hexane) to give the 2-[4-(4-Chloro-phenyl)-1-(piperidine-1-carbonyl)-butyl]-acrylic acid tert-butyl ester as a colourless oil (750 mg, 41%). 1H-NMR: δ (CDCl3), 7.21 (2H, d, J=8.4 Hz), 7.09 (2H, d, J=8.4 Hz), 6.19 (1H, s), 5.71 (1H, s), 3.82 (1H, dd, J=4.9, 8.2 Hz), 3.64 (1H, m), 3.51-3.32 (3H, m), 2.67-2.50 (2H, m), 1.90 (1H, m), 1.61-1.38 (9H, m) and 1.48 (9H, s).

reactant | 2-[4-(4-Chloro-phenyl)-1-(piperidine-1-carbonyl)-butyl]-malonic acid tert-butyl ester | 4.6 mmol, 2.0 g | C(C)(C)(C)OC(C(C(=O)O)C(CCCC1=CC=C(C=C1)Cl)C(=O)N1CCCCC1)=O | C23H32ClNO5
reactant | piperidine | 5.5 mmol, 0.43 ml | N1CCCCC1 | C5H11N
reactant | formaldehyde | 23 mmol, 1.9 ml | C=O | CH2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[4-(4-Chloro-phenyl)-1-(piperidine-1-carbonyl)-butyl]-acrylic acid tert-butyl ester | 750 mg, 41% | C(C)(C)(C)OC(C(=C)C(CCCC1=CC=C(C=C1)Cl)C(=O)N1CCCCC1)=O | C23H32ClNO3
